US09102591B2
2-Isopropoxy-2-(2-methylpyrimidin-5-yl)ethanamine
2-Isopropoxy-2-(2-methylpyrimidin-5-yl)acetonitrile (169 mg, 0.884 mmol) was dissolved in methanol (10 ml) and 7M NH3 in methanol (4 ml). Argon was bubbled through the solution for 5 minutes. To the reaction was added Raney nickel (100 mg, 1.704 mmol) and it was fitted with a H2-filled balloon. After stirring at room temperature for 20 hours LCMS shows only around 30% conversion and raney nickel (100 mg, 1.70 mmol) was added. The reaction was stirred for another 72 hours, then filtered through a plug of celite and concentrated in vacuo. The crude product used for next reaction without further purification.

reactant | 2-Isopropoxy-2-(2-methylpyrimidin-5-yl)acetonitrile | 0.884 mmol, 169 mg | C(C)(C)OC(C#N)C=1C=NC(=NC1)C | C10H13N3O
reactant | NH3 | 7M | N | H3N
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
catalyst | Raney nickel | 1.704 mmol, 100 mg | [Ni] | Ni
catalyst | raney nickel | 1.70 mmol, 100 mg | [Ni] | Ni
product | 2-Isopropoxy-2-(2-methylpyrimidin-5-yl)ethanamine | C(C)(C)OC(CN)C=1C=NC(=NC1)C | C10H17N3O
